US07115620B2
Ethyl chlorooxoacetate (0.82 mL, 7.3 mmol) was added dropwise to a stirring solution of 1-(2-ethyl-4-cyanophenyl)-3-(1,1-dimethyl-propyl)-thiourea (1.0 g, 3.65 mmol) in dichloromethane (30 mL) and the resulting mixture was stirred at room temperature overnight. The mixture was concentrated to afford a residue which was triturated with diethyl ether and hexanes to afford 0.71 g (59%) of 4-[3-(1,1-dimethyl-propyl)-4,5-dioxo-2-thioxo-imidazolidin-1-yl]-3-ethyl-benzonitrile as a yellow solid: mp 172.8–173.3° C.; 1H NMR (DMSO-d6): δ 7.92 (s, 1H), 7.80 (d, 1H), 7.52 (d, 1H), 2.50 (m, 2H), 2.19 (m, 2H), 1.76 (2s, 6H), 1.08 (t, 3H), 0.85 (t, 3H); IR (KBr) 3400, 2950, 2260, 1775 cm−1; MS (m/z) 329 (M+).

reactant | Ethyl chlorooxoacetate | 7.3 mmol, 0.82 mL | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | 1-(2-ethyl-4-cyanophenyl)-3-(1,1-dimethyl-propyl)-thiourea | 3.65 mmol, 1.0 g | C(C)C1=C(C=CC(=C1)C#N)NC(=S)NC(CC)(C)C | C15H21N3S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-[3-(1,1-dimethyl-propyl)-4,5-dioxo-2-thioxo-imidazolidin-1-yl]-3-ethyl-benzonitrile | 0.71 g, 59% | CC(CC)(C)N1C(N(C(C1=O)=O)C1=C(C=C(C#N)C=C1)CC)=S | C17H19N3O2S
